US07439399B2
Preparation of Atomoxetine Hydrochloride Form A
Seven grams (0.01718 mol) of atomoxetine (S)-(+)-mandelate was mixed at room temperature with 70 ml of ethyl acetate under stirring. Keeping the temperature between about 15° C. and about 20° C. by means of water-ice bath cooling, 1.94 g of aqueous (36.3% w/w) hydrogen chloride was added into the obtained slurry. The slurry was stirred for 2 hours at room temperature, then the solid was collected by filtration, washed with 3×10 ml of ethyl acetate and dried in vacuo.

reactant | atomoxetine (S)-(+)-mandelate | 0.01718 mol, Seven grams | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.C([C@@H](O)C1=CC=CC=C1)(=O)[O-]
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | Atomoxetine Hydrochloride | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.Cl | InChI=1S/C17H21NO.ClH/c1-14-8-6-7-11-16(14)19-17(12-13-18-2)15-9-4-3-5-10-15;/h3-11,17-18H,12-13H2,1-2H3;1H/t17-;/m1./s1
